US07576085B2
A suspension of 4-(3-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (0.390 g) and 10% Pd/C (0.100 g) in ethanol was stirred under an hydrogen atmosphere (1 atm at balloon pressure) for 16 hr. The reaction mixture was filtered through a bed of Celite using ethyl acetate as solvent. Concentration afforded 4-(3-amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester as a clear oil (0.353 g, 90%). 1H NMR (400 MHz, DMSO-d6) δ 6.85 (t, 1H), 6.15-6.05 (m, 3H), 4.99 (br s, 2H), 4.43-4.30 (m, 1H), 3.67-3.53 (m, 2H), 3.20-3.06 (m, 2H), 1.89-1.80 (m, 2H), 1.53-1.4 (m, 2H), 1.38 (s, 9H).

reactant | 4-(3-nitro-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.390 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)[N+](=O)[O-] | C16H22N2O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.100 g | [Pd] | Pd
product | 4-(3-amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.353 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)N | C16H24N2O3
